US06440995B1
To a 0° C. solution of (RS)-1-amino-3-[2-(4-methoxy-phenyl)-quinolin-4-ylamino]-propan-2-ol (0.139 g) 0.429 mmol) in DMF (2.5 ml) was added dropwise a solution of 1,1-carbonyldiimidazole (0.076 g, 0.472 mmol) in DMF (1 ml). After 20 min. at 0° C., and 1.5 hours at 60° C., the reaction mixture was cooled to room temperature and concentrated. Addition of H2O provided (RS)-5-{[2-(4-methoxy-phenyl)-quinolin-4-ylamino]-methyl}-oxazolidin-2-one (0.110 g, 73%) as yellowish solid, MS: m/e=349 (M+).

reactant | (RS)-1-amino-3-[2-(4-methoxy-phenyl)-quinolin-4-ylamino]-propan-2-ol | 0.429 mmol, 0.139 g | NCC(CNC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC)O | C19H21N3O2
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (RS)-5-{[2-(4-methoxy-phenyl)-quinolin-4-ylamino]-methyl}-oxazolidin-2-one | 0.110 g, 73% | COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCC1CNC(O1)=O | C20H19N3O3
